US07671066B2
Preparation of 2-(S)-(4-isobutyl-phenyl)-propionic acid 2-(3,5dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester (Z isomer=CHF 5480 and E isomer=CHF 5656)
A solution of 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy -phenyl)-ethanone (2.0 g, 6.2 mmol) in dry tetrahydrofuran (10 ml) was cooled down to −78° C. then a 1.8 M solution of lithium diisopropylamide in tetrahydrofuran (4.1 ml, 7.4 mmol) was added dropwise keeping the temperature below −70° C. The resulting solution was stirred for 30 min., then added with a solution of 2-(S)-(4-isobutyl-phenyl)-propionyl chloride (1.4 g, 6.4 mmol) in dry tetrahydrofuran (10 ml) and left to warm to room temperature. After stirring for further 30 min., the reaction was quenched with brine (20 ml) and water (50 ml) and the mixture was extracted with ethyl acetate (2×40 ml). The combined organic layers were dried over sodium sulphate and evaporated under reduced pressure to give an oil as mixture of Z and E isomers. These were separated by preparative HPLC water (water/acetonitrile=70/30 to 20/80).

reactant | 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy -phenyl)-ethanone | 6.2 mmol, 2.0 g | ClC=1C=NC=C(C1CC(=O)C1=CC(=C(C=C1)OC)OC)Cl | C15H13Cl2NO3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-(S)-(4-isobutyl-phenyl)-propionyl chloride | 6.4 mmol, 1.4 g | C(C(C)C)C1=CC=C(C=C1)[C@@H](C(=O)Cl)C | C13H17ClO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.4 mmol, 4.1 ml | O1CCCC1 | C4H8O
product | 2-(S)-(4-isobutyl-phenyl)-propionic acid 2-(3,5dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester | ClC=1C=NC=C(C1C=C(C1=CC(=C(C=C1)OC)OC)OC([C@@H](C)C1=CC=C(C=C1)CC(C)C)=O)Cl | C28H29Cl2NO4
